US09056885B2
9-hydroxy-2,3,5,6,7,8-hexahydro-1H-azepino[3,2,1-ij]quinoline
The title compound was synthesized in a similar manner as 11-hydroxy-2,3,5,6,7,8-hexahydro-1H-azepino[3,2,1-ij]quinolone starting from 5-methoxytetralone: 1H NMR (DMSO-d6) δ 8.69 (s, 1H), 6.55 (d, 1H); 6.27 (d, 1H), 3.05-3.02 (m, 2H), 2.92-2.89 (m, 2H), 2.68-2.64 (m, 2H), 2.54 (t, 2H), 1.69-1.60 (m, 4H), 1.45-1.37 (m, 2H); MS expected 204 (C13H18NO, M+1), found 204.

reactant | 11-hydroxy-2,3,5,6,7,8-hexahydro-1H-azepino[3,2,1-ij]quinolone | OC1=C2C(CCN3C2=C(C=C1)CCCC3)=O | C13H15NO2
reactant | 5-methoxytetralone | COC1=C2CCCC(C2=CC=C1)=O | C11H12O2
product | 9-hydroxy-2,3,5,6,7,8-hexahydro-1H-azepino[3,2,1-ij]quinoline | OC1=CC=C2CCCN3C2=C1CCCC3 | C13H17NO
